US04022769
One equivalent of Jones Reagent is added to a solution of 3β-trimethylsiloxy-4-androstene-17β,19-diol 17-acetate in acetone at 5° C. After stirring for 15 minutes, the acetone layer is poured into cold water with vigorous stirring. The solid is filtered, washed with water and dried in a vacuum oven. Cr stallization from hexane yields 17β-hydroxy-3β-trimethylsiloxy-4-androsten-19-one acetate.

reactant | Jones Reagent | One equivalent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
reactant | 3β-trimethylsiloxy-4-androstene-17β,19-diol 17-acetate | C(C)(=O)O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C[C@H](CC[C@]3(CO)[C@H]1CC2)O[Si](C)(C)C | C24H40O4Si
reactant | water | O | H2O
solvent | acetone | CC(=O)C | C3H6O
product | 17β-hydroxy-3β-trimethylsiloxy-4-androsten-19-one acetate | C(C)(=O)O.O[C@@H]1[C@]2(C)[C@@H](CC1)[C@@H]1CCC3=C[C@H](CC[C@]3(C=O)[C@H]1CC2)O[Si](C)(C)C | InChI=1S/C22H36O3Si.C2H4O2/c1-21-11-10-19-17(18(21)7-8-20(21)24)6-5-15-13-16(25-26(2,3)4)9-12-22(15,19)14-23;1-2(3)4/h13-14,16-20,24H,5-12H2,1-4H3;1H3,(H,3,4)/t16-,17-,18-,19-,20-,21-,22+;/m0./s1
